US07807709B2
a. 3-(3-Hydroxy-propoxy)-4-methoxy-benzoic acid methyl ester
A mixture of methyl 3-hydroxy-4-methoxybenzoate (4.94 g, 26.6 mmol), 3-bromo-1-propanol (2.86 mL, 31.9 mmol) and anhydrous K2CO3 (5.51 g, 39.9 mmol) in MeCN (50 mL) is refluxed with stirring overnight, and after cooling is poured into ice/water. The aqueous layer is extracted with AcOEt, and the combined organics are washed with brine, dried (Na2SO4) and concentrated. Purification by flash chromatography on silica gel (hexane/AcOEt 1:2) gives a solid residue which is stirred in a 9:1 mixture of hexane/AcOEt over 30 min. Filtration of the suspension and drying in vacuo gives the title compound as white solid. TLC, Rf (hexane/AcOEt 1:1)=0.09. MS: 241.2 [M+H]+. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 2.86 min. 1H-NMR (CDCl3): δ 2.13 (m, 2H), 2.59 (m, 1H), 3.92 (s, 3H), 3.93 (s, 3H), 4.29 (m, 2H), 6.92 (m, 1H), 7.60 (s, 1H), 7.73 (m, 1H) ppm.

reactant | methyl 3-hydroxy-4-methoxybenzoate | 26.6 mmol, 4.94 g | OC=1C=C(C(=O)OC)C=CC1OC | C9H10O4
reactant | 3-bromo-1-propanol | 31.9 mmol, 2.86 mL | BrCCCO | C3H7BrO
reactant | K2CO3 | 39.9 mmol, 5.51 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hexane AcOEt | CCCCCC.CCOC(=O)C
solvent | MeCN | 50 mL | CC#N | C2H3N
product | 3-(3-Hydroxy-propoxy)-4-methoxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OC)OCCCO)=O | C12H16O5
